US06133303
6-[2-(1H-Imidazole-4-yl)-ethoxy]-2-(3-methyl-thiophen-2-ylmethylene)-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 4, 6-[2-(1H-imidazole-4-yl)-ethoxy]-3,4-dihydro-2H-naphthalen-1-one, monohydrochloride (0.146 g, 0.50 mmol) was reacted with 3-methyl-thiophene-2-carboxaldehyde (0.095 g, 0.50 mmol) in 5 mL of 4% KOH in EtOH to afford 0.115 g (63%) of the title compound as a coarse cream powder, mp 191-193° C.: CI-MS m/e 365 (M+).

reactant | 6-[2-(1H-imidazole-4-yl)-ethoxy]-3,4-dihydro-2H-naphthalen-1-one, monohydrochloride | 0.50 mmol, 0.146 g | Cl.N1C=NC(=C1)CCOC=1C=C2CCCC(C2=CC1)=O
reactant | 3-methyl-thiophene-2-carboxaldehyde | 0.50 mmol, 0.095 g | CC1=C(SC=C1)C=O | C6H6OS
solvent | KOH | 5 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 6-[2-(1H-Imidazole-4-yl)-ethoxy]-2-(3-methyl-thiophen-2-ylmethylene)-3,4-dihydro-2H-naphthalen-1-one | 0.115 g, 63% | N1C=NC(=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC=1SC=CC1C | C21H20N2O2S
